US05714488
Lithium hydroxide monohydrate (1.4 g, 33.4 mmol) in 1:1 water-ethanol (20 mL) was added a solution of bis(4-(2-quinolylmethoxy)phenyl)-methyloximinoacetic acid ethyl ester (8.5 g, 14.2 mmol), prepared as in Example 3, in THF (80 mL) and ethanol (10 mL). The turbid reaction was stirred for 1 hour, and then was diluted with water (80 mL). The aqueous layer was washed with 1:1 ether-hexane (50 mL) and then filtered to remove fine solids. The filtrate was acidified to pH 4 with 1N HCl, and the precipitated solid collected by filtration and dried in vacuo to give bis(4-(2-quinolylmethoxy)phenyl)methyloximinoacetic acid (6.9 g, 85%): mp 183°-185° C.

reactant | Lithium hydroxide monohydrate | 33.4 mmol, 1.4 g | O.[OH-].[Li+]
reactant | water ethanol | 20 mL | O.C(C)O
reactant | bis(4-(2-quinolylmethoxy)phenyl)-methyloximinoacetic acid ethyl ester | 14.2 mmol, 8.5 g | C(C)OC(C(=NO)C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O | C37H31N3O5
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 80 mL | O | H2O
product | bis(4-(2-quinolylmethoxy)phenyl)methyloximinoacetic acid | 6.9 g, 85% | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C(C(=O)O)=NO | C35H27N3O5
